US05849764
Step 9.1E 2-(3,5-dimethylphenyl)-3-[2-(1-methyl-4-pyridin-3-yl-butylamino)ethyl]-1H-indole-5-carboxylic acid diisobutylamide
To a solution of 3-(2-aminoethyl)-2-(3,5-dimethylphenyl)-1H-indole-5-carboxylic acid diisobutylamide (142 mg in dry methanol) was added 19 mg 5-pyridin-3-yl-pentan-2-one and the pH adjusted to 6 by the addition of trifluoroacetic acid. To this, approximately 10 mg of 3 Å molecular sieves were added followed by 27 mg of sodium cyanoborohydride. The pH was adjusted occasionally with trifluoroacetic acid over 36 hours to maintain pH of 6. The reaction was then quencehed by the addition of aqueous potassium carbonate and the mixture extracted with ethyl acetate. The organic portion was washed sequentially with aqueous potassium carbonate and brine, then dried over sodium sulfate. Purification of the concentrate by flash chromatography on silica gel (methylene chloride:methanol:ammonium hydroxide, 90:8:1) gave the title compound (32 mg) [m/e =567 (M+H)] plus unreacted amine (115 mg).

reactant | 3-(2-aminoethyl)-2-(3,5-dimethylphenyl)-1H-indole-5-carboxylic acid diisobutylamide | 142 mg | C(C(C)C)N(C(=O)C=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)CCN)CC(C)C | C27H37N3O
reactant | 5-pyridin-3-yl-pentan-2-one | 19 mg | N1=CC(=CC=C1)CCCC(C)=O | C10H13NO
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium cyanoborohydride | 27 mg | C(#N)[BH3-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 2-(3,5-dimethylphenyl)-3-[2-(1-methyl-4-pyridin-3-yl-butylamino)ethyl]-1H-indole-5-carboxylic acid diisobutylamide | 32 mg | C(C(C)C)N(C(=O)C=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)CCNC(CCCC=1C=NC=CC1)C)CC(C)C | C37H50N4O
